US07659297B2
2-(4-Chloro-3-fluoro-2-methoxyphenyl)-2-methylpropanenitrile
16.78 g (93.97 mmol) of 3-chloro-2,6-difluoro-anisole is dissolved in 800 ml of toluene. After 25.97 g (375.88 mmol) of isobutyronitrile is added, 283.97 ml (140.95 mmol) of a 0.5 molar solution of potassium hexamethyl disilazide in toluene is added in drops. In this case, the temperature increases to 28° C. The batch is stirred for seven days at 60° C. After mixing with water and ethyl acetate, the reaction mixture is brought to a pH of 4 with 1 M sulfuric acid. After being extracted twice with ethyl acetate, the combined organic extracts are washed with water and saturated NaCl solution and dried. After spinning-in and chromatography on silica gel (mobile solvent: ethyl acetate/hexane), 7.46 g (21.4%) of the desired compound is obtained.

reactant | 3-chloro-2,6-difluoro-anisole | 93.97 mmol, 16.78 g | ClC=1C(=C(C(=CC1)F)OC)F | C7H5ClF2O
reactant | isobutyronitrile | 375.88 mmol, 25.97 g | C(C(C)C)#N | C4H7N
reactant | potassium hexamethyl disilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | sulfuric acid | 1 M | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(4-Chloro-3-fluoro-2-methoxyphenyl)-2-methylpropanenitrile | 7.46 g, 21.4% | ClC1=C(C(=C(C=C1)C(C#N)(C)C)OC)F | C11H11ClFNO
